US06355631B1
3-[Bromo(4-chlorophenyl)methyl]pyridine is obtained in the following manner: 3.5 cm3 of a 48% solution of hydrobromic acid in acetic acid and 1 cm3 of acetyl bromide are added to 1.5 g of (4-chlorophenyl)pyridin-3-ylmethanol. The amber-colored mixture thus obtained is heated under reflux for 4 hours and then cooled to 20° C., concentrated to dryness at 40° C. under 2.7 kPa, giving 1.53 g of 3-[bromo(4-chlorophenyl)methyl]pyridine (Rf=75/90, 254 nm, Silica Plates, reference 1.05719, Merck KGaA, 64271 Darmstatd, Germany).

reactant | hydrobromic acid | Br | BrH
reactant | (4-chlorophenyl)pyridin-3-ylmethanol | 1.5 g | ClC1=CC=C(C=C1)C(O)C=1C=NC=CC1 | C12H10ClNO
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetyl bromide | 1 cm3 | C(C)(=O)Br | C2H3BrO
product | 3-[bromo(4-chlorophenyl)methyl]pyridine | 1.53 g | BrC(C=1C=NC=CC1)C1=CC=C(C=C1)Cl | C12H9BrClN
